US04604388
1-[(1-Methyl-3-pyrrolidinyl)oxy]-2-naphthalene carboxamide
In another vessel, 79 g (0.69 mole) of methanesulfonylchloride was added dropwise to a solution of 69.7 g (0.69 mole) of 1-methyl-3-pyrrolidinol and 77 g (0.76 mole) of triethylamine in 500 ml of dry benzene while cooling with an ice bath. The mixture was stirred 15 minutes and filtered. The filter cake was washed with 500 ml of benzene and the benzene filtrates were combined and concentrated on the rotary evaporator to about 200 ml. The residue was added dropwise to the above prepared dimethylsulfoxide solution containing the sodium salt of 1-hydroxy-2-naphthalenecarboxamide while stirring at 75° C. The temperature was maintained at 75° C. for 18 hr with external heat. The resulting solution was cooled and an equal volume of water was added. The mixture was extracted with three portions of chloroform. The washes were combined and concentrated. The residue was partitioned between ethyl acetate and dilute hydrochloric acid. The acid layer was made basic with sodium hydroxide and extracted twice with ethyl acetate. The ethyl acetate washes were combined, dried over sodium sulfate and concentrated. The residue was crystallized from ethyl acetate-isooctane. Yield of solid was 55 g (32%). A portion was recrystallized twice from ethyl acetate-isooctane, m.p. 122°-129° C.

reactant | methanesulfonylchloride | 0.69 mole, 79 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-methyl-3-pyrrolidinol | 0.69 mole, 69.7 g | CN1CC(CC1)O | C5H11NO
reactant | triethylamine | 0.76 mole, 77 g | C(C)N(CC)CC | C6H15N
reactant | sodium | [Na] | Na
reactant | 1-hydroxy-2-naphthalenecarboxamide | OC1=C(C=CC2=CC=CC=C12)C(=O)N | C11H9NO2
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 1-[(1-Methyl-3-pyrrolidinyl)oxy]-2-naphthalene carboxamide | CN1CC(CC1)OC1=C(C=CC2=CC=CC=C12)C(=O)N | C16H18N2O2
